Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Chemotherapy and Radiation for peripheral nerve sheath tumor
 
Major Surgical or Invasive Procedure:
Port-a-cath placement
 
History of Present Illness:
___ woman w hx of CAD s/p 3v CABG, pacer who presents for chemo 
for recently diagnosed RLEx malignant peripheral nerve sheath 
tumor. Her sx began in ___ with RLEx swelling. CT at OSH 
showed 10x10cm mass in her right groin. Size and symptoms 
persisted so patient underwent core needly bx ___ which 
showed high-grade sarcoma.  
.  
Today, the patient feels well. She reports some restiction of 
movement in her right leg due to pain but denies weakness. She 
currently has ___ right leg pain which she describes as 
intermittant, shotting and aching pain which can be ___. Her 
pain is worse with movement; relieved with tramadol.  
.  
Currently and on ROS, the patient reports deminished appetite 
and energy for several months. She denies any recent history of 
headache, changes in vision, dificulty swollowing. She has 
baseline hoarsness of speech since a difficult intubation/trach 
serval years back. She denies shortness of breath. She has a 
history of chest pain for which she uses nitro but has not has 
symptoms for months. She denies fever, chills, nausea, vomiting, 
abdmoninal pain/diarrhea. Pt is routinely constipated (unsure of 
last BM). All other systems negative. 

 
Past Medical History:
 High grade malignant periph nerve sheath tumor RLEx: Core 
needle biopsy of the mass on ___ which showed high-grade 
sarcoma consistent with a peripheral nerve sheath tumor staining 
positive for AE1/AE3, NNF 116, and CK ___. S100 and EMA were 
focally weakly positive. GFAP, desmin, actin, MART-1, and HMB-45 
were negative.  
.  
- Coronary artery disease status post 3-vessel CABG ___  
following a syncopal episode. She denies any history of MI. She  

is followed by Dr. ___ in cardiology at ___  
___. Most recent stress echo ___ with EF 60-65% and  
mild hypokinesis of the basal inferoseptal segment.  
- s/p cataract surgery ___  
- Status post pacemaker ___ for sick sinus syndrome.  
- Status post appendectomy at ___ years.  
- Hypertension.  
- Hypercholesterolemia.  
- GERD.  
- Hayfever.  
- G4P3.  
- Osteoarthritis of the fingers and bilateral knees.  
- history of difficult intubation requiring trach.  

 
Social History:
___
Family History:
Maternal grandfather had a "stomach cancer."  
Father died of an MI at ___ years. Mother died of cardiovascular  

disease and arrhythmia at ___ years. Brother is alive with  
cardiovascular disease and hypercholesterolemia. Some of her  
grandchildren have hypercholesterolemia, one grandchild has  
ulcerative colitis, and another grandchild has asthma. 

 
Physical Exam:
VS: 98.1, 128/62, 18, 61, 94% on RA  
GEN: AAOx3, comfortable, well appearing  
HEENT: PERRLA, MMM, JVP flat  
LYMPH: no cervical or supraclavic nodes  
CARDS: RRR no ___ SEM appreciated throughout. Left portocath 
placed- mild tenderness at site. C/D/I.  
LUNGS: marked kyphosis. CTAB  
ABD: BS+ soft, NT/ND  
EXTREMITIES: 15cm mass right groin/thigh. Soft, mobile, 
tenderness to deep palpation.  
SKIN: no rashes, petechia, lesions, or echymoses  
NEURO: A&Ox3, cranial nerves II-XII intact, strength ___  
throughout except RLE which is limited due to pain (___), gait 
not tested.  

 
Pertinent Results:
___ 01:52PM   
___ PTT-34.0 ___
PLT COUNT-204
WBC-7.6 RBC-3.73* HGB-11.4* HCT-33.5* MCV-90 MCH-30.6 MCHC-34.0 
RDW-13.9
ALBUMIN-3.8 CALCIUM-8.7 PHOSPHATE-3.4 MAGNESIUM-1.9
ALT(SGPT)-11 AST(SGOT)-22 LD(LDH)-432* ALK PHOS-33* TOT BILI-0.2
GLUCOSE-104 UREA N-16 CREAT-0.6 SODIUM-142 POTASSIUM-3.6 
CHLORIDE-106 TOTAL CO2-28 ANION GAP-12.
.
Portocath placement ___
FINDINGS: Single fluoroscopic view obtained without radiologist 
input shows placement of a central catheter in the lower portion 
of the SVC. 
.
Discharge Labs
___ 12:00AM BLOOD 
WBC-5.1 RBC-3.05* Hgb-9.4* Hct-27.3* MCV-90 MCH-30.7 MCHC-34.4 
RDW-14.1 Plt ___ PTT-48.2* ___
Glucose-96 UreaN-8 Creat-0.5 Na-139 K-3.8 Cl-107 HCO3-25 
AnGap-11
ALT-12 AST-24 LD(LDH)-352* AlkPhos-32* TotBili-0.4
Albumin-3.2* Calcium-8.6 Phos-2.0* Mg-2.___ woman with a recently diagnosed localized malignant 
peripheral nerve sheath tumor here for chemotherapy and 
radiation treatment.  
.  
# Malignant peripheral nerve sheath tumor: The patient underwent 
port-a-cath placement  in preparation of multiple therapies.  
She received Adriamycin at 15 mg/m2/ continuously x 4 days with 
concurrent administration of radiation. She had no complications 
and experienced only mild fatigue and nausea. She received 
tramadol for pain control relating to her tumor. She was 
discharged with Compazine for symptom control and will return 
for admission on ___.
.  
# CAD s/p 3v CABG: The patient was continued on lisinopril, 
HCTZ, metoprolol. Her fluids status was watched closely given 
her cardiac history.  No interventions were made.
 
Medications on Admission:
1. Hydrochlorothiazide 12.5 mg p.r.n. ankle swelling.  
2. Lisinopril 40 mg daily.  
3. Metoprolol 25mg daily  
4. Prilosec 20 mg daily.  
5. Crestor 30 mg daily.  
6. Tramadol 50 mg t.i.d. p.r.n. knee pain, not using frequently  

7. Aspirin 81 mg daily.  
8. Calcium 500 plus D.  
9. Tylenol ___ q.h.s. p.r.n. sleeplessness and leg pain.  
10. Vitamin D2 400 units daily.  
11. Fiber daily.  
12. Flaxseed oil daily.  
13. One a day Women's Multivitamin daily.  
14. Fosomax 70mg qweek  
15. Nitro s.l. PRN chest pain  
.  

 
Discharge Medications:
1. Hydrochlorothiazide 12.5 mg Capsule Sig: 0.5 Capsule PO QD () 
as needed for ankle edema.  
2. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Crestor 20 mg Tablet Sig: 1.5 Tablets PO once a day.  
6. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QD ().  
9. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed.  
10. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Psyllium 1.7 g Wafer Sig: One (1) Wafer PO DAILY (Daily).  
13. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual PRN as needed for chest pain.  
14. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Nerve Sheath Tumor
Coronary Artery Disease
Hypertension

 
Discharge Condition:
The patient was hemodynamically stable, afebrile and without 
pain at the time of discharge.

 
Discharge Instructions:
You were admitted for treatment of your nerve tumor and you 
completed 5 days of radiation and chemotherapy.  You tolerated 
the treatment well.
.
We have made no changes to your home medications.
.
You will need to return to the hospital on ___ for 
continuation of treatment.  In the meantime, please call your 
doctor or seek immediate medical attention if you develop fever, 
chills, nausea, vomiting, chest pain, shortness of breath or any 
other symptoms of concern.
 
Followup Instructions:
___